US06699867B2
To a solution of 8.57 g of methyl 2-acetamidoacrylate in 500 mL of dichloromethane stirred under inert atmosphere, about 6.65 mL of N-methylpiperazine are added, then 0.97 g of iron trichloride are added, and the mixture is stirred at a temperature of about 20° C. for 66 hours. Then, 300 mL of an aqueous solution of sodium sulfate are dropped to the reaction medium while stirring the reaction mixture and the mixture filtered through Celite. After separation of the phase by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated in a vacuum oven under reduced pressure (2 kPa) at a temperature of about 40° C. in order to obtain an orange-colored liquid. The aqueous phase is extracted with 3 times 150 mL of dichloromethane and all of the organic extracts are collected, dried over sodium sulfate, then concentrated under reduced pressure (2 kPa) at a temperature of about 20° C. in order to obtain an yellow oil. Both of the organic extracts as described above are combined and purified by chromatography under argon pressure (50 kPa), on a column of silica gel (particle size 40-63 μm; diameter 5 cm; height 25 cm), eluting with successive mixtures of 20% dichloromethane/methanol/aqueous ammonia (99/1/0, 97/3/0, 90/10/0.25, 80/20/0.25 by volume). The fractions containing the expected product are combined and concentrated under reduced pressure (2 kPa) at a temperature of about 30° C. About 3.3 g of methyl 2-(acetylamino)-3-(4-methyl-piperazinyl)propanoate are obtained in the form of a yellow liquid. [Infrared spectrum CCl4 3437; 3318; 2941; 2798; 1749; 1685; 1499; 1458; 1374; 1286; 1204; 1168 and 1014 cm−1]

reactant | methyl 2-acetamidoacrylate | 8.57 g | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | N-methylpiperazine | about 6.65 mL | CN1CCNCC1 | C5H12N2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | iron trichloride | 0.97 g | [Fe](Cl)(Cl)Cl
product | methyl 2-(acetylamino)-3-(4-methyl-piperazinyl)propanoate | 3.3 g | C(C)(=O)NC(C(=O)OC)CN1CCN(CC1)C | C11H21N3O3
